US07932272B2
To a solution of quinolin-6-yl amine (2.88 g, 20 mmol) and HBF4 aqueous solution (48% W/W, 11 mL) in tetrahydrofuran (100 mL) was added 3-methyl-1-nitrosooxy-butane (10.7 mL, 60 mmol) dropwise under nitrogen atmosphere at from −10° C. to −15° C., then, the mixture was stirred for 1 hour. At from −10° C. to −15° C., diethyl ether (200 mL) was added dropwise, the precipitated solid was collected by filtration, washed with diethyl ether, dried, and quinolin-6-diazonium tetrafluoroborate (6.85 g) was obtained as a yellow-red solid.

reactant | quinolin-6-yl amine | 20 mmol, 2.88 g | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
reactant | HBF4 | 11 mL | [H+].[B-](F)(F)(F)F
reactant | 3-methyl-1-nitrosooxy-butane | 60 mmol, 10.7 mL | CC(CCON=O)C | C5H11NO2
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | quinolin-6-diazonium tetrafluoroborate | 6.85 g | F[B-](F)(F)F.N1=CC=CC2=CC(=CC=C12)[N+]#N | InChI=1S/C9H6N3.BF4/c10-12-8-3-4-9-7(6-8)2-1-5-11-9;2-1(3,4)5/h1-6H;/q+1;-1
